US04780477
By using 5-methylisatin and 3-diisopropylaminopropyl chloride hydrochloride, a method analogous to that described in Reference Example 1 was carried out to obtain 1-(3-diisopropylaminopropyl)-5-methylisatin having a melting point of 87°-89° C. (yeld: 53.3%).

reactant | 5-methylisatin | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
reactant | 3-diisopropylaminopropyl chloride hydrochloride | Cl.C(C)(C)N(CCCCl)C(C)C
product | 1-(3-diisopropylaminopropyl)-5-methylisatin | C(C)(C)N(CCCN1C(=O)C(=O)C2=CC(=CC=C12)C)C(C)C | C18H26N2O2
